US09145429B2
1L. 6-(1-Hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-5-yloxy)-2-(4-oxopentyloxy)-4-(trifluoromethyl)nicotinonitrile D242
This compound was prepared from 2,6-dichloro-4-(trifluoromethyl)nicotinamide, 5-hydroxypentan-2-one, and benzo[c][1,2]oxaborole-1,5(3H)-diol in a similar manner to that of D230. 1H-NMR (400 MHz, DMSO-d6) δ (ppm) 1.85-1.88 (m, 2H), 1.93 (s, 3H), 2.95-2.99 (t, J=4.9 Hz, 2H), 3.91-3.94 (t, J=5.4 Hz, 2H), 5.01 (s, 2H), 7.21 (dd, J=6.0, 1.5 Hz, 1H), 7.3 (s, 1H), 7.64 (s, 1H), 7.81 (d, J=6.0 Hz, 1H), 9.26 (s, 1H).

reactant | 2,6-dichloro-4-(trifluoromethyl)nicotinamide | ClC1=C(C(=O)N)C(=CC(=N1)Cl)C(F)(F)F | C7H3Cl2F3N2O
reactant | 5-hydroxypentan-2-one | OCCCC(C)=O | C5H10O2
reactant | benzo[c][1,2]oxaborole-1,5(3H)-diol | B1(OCC2=C1C=CC(=C2)O)O | C7H7BO3
product | 6-(1-Hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-5-yloxy)-2-(4-oxopentyloxy)-4-(trifluoromethyl)nicotinonitrile | OB1OCC2=C1C=CC(=C2)OC2=NC(=C(C#N)C(=C2)C(F)(F)F)OCCCC(C)=O | C19H16BF3N2O5
